US06627648B1
5-Isopropoxy-3-pyridylamine
Crude 5-bromo-3-isopropoxypyridine (3.71 g, 17.18 mmol) was dissolved in methanol (46 mL) and added to concentrated ammonium hydroxide (29.7%, 14.8 M, 50 mL) and copper(I) bromide (2.46 g, 17.18 mmol) in a heavy-walled glass pressure-tube apparatus. The tube was sealed and the mixture was stirred and heated at 170° C. (oil bath temperature) for 24 h. After cooling, the solution was concentrated by rotary evaporation. Sodium carbonate solution (17.6%, 200 mL) was added, and the mixture was extracted with CH2Cl2 (4×50 mL). The combined CH2Cl2 extracts were dried (MgSO4), filtered, and concentrated by rotary evaporation to give 1.88 g (72.0%) of a brown oil.

reactant | 5-bromo-3-isopropoxypyridine | 17.18 mmol, 3.71 g | BrC=1C=C(C=NC1)OC(C)C | C8H10BrNO
reactant | ammonium hydroxide | 14.8 M, 50 mL | [OH-].[NH4+]
solvent | methanol | 46 mL | CO | CH4O
catalyst | copper(I) bromide | 17.18 mmol, 2.46 g | [Cu]Br
product | 5-Isopropoxy-3-pyridylamine | 1.88 g, 72.0% | C(C)(C)OC=1C=C(C=NC1)N | C8H12N2O
